US08791134B2
Tert-butyl 2-{[1,3-bis(acetyloxy)propan-2-yl](methyl)amino}acetate.
To a solution of 3-(acetyloxy)-2-oxopropyl acetate (4.54 g, 26 mmol) in dichloroethane (75 ml) was added tert-butyl 2-(methylamino)acetate HCl. After stirring for 10 minutes sodium triacetoxyborohydride (8.3 g, 39 mmol) was added and stirring was continued for 18 hours and monitored by TLC (1:1heptane:EtOAc). The reaction was quenched by the addition of saturated sodium hydrogen carbonate solution and the crude product was extracted into dichloromethane. The organic phase was separated, dried over MgSO4, filtered and concentrated in vacuo. The title compound was purified by silica column chromatography eluting with 0-20% EtOAc:Hept to yield the title compound (1.32 g, 17% yield). 1H NMR (250 MHz, CHLOROFORM-d) δ 4.07-4.33 (4H, m), 3.34 (2H, s), 3.23 (1H, t, 5.9 Hz), 2.49 (3H, s), 1.99-2.19 (6H, m), 1.33-1.55 (9H, m).

reactant | 3-(acetyloxy)-2-oxopropyl acetate | 26 mmol, 4.54 g | C(C)(=O)OCC(COC(C)=O)=O | C7H10O5
reactant | tert-butyl 2-(methylamino)acetate HCl | Cl.CNCC(=O)OC(C)(C)C
reactant | sodium triacetoxyborohydride | 39 mmol, 8.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloroethane | 75 ml | ClC(C)Cl | C2H4Cl2
product | Tert-butyl 2-{[1,3-bis(acetyloxy)propan-2-yl](methyl)amino}acetate | 1.32 g, 17% yield | C(C)(=O)OCC(COC(C)=O)N(CC(=O)OC(C)(C)C)C | C14H25NO6
